US05010083
Lithium borohydride (100 ml of a 2.0M solution in tetrahydrofuran) was added to a solution of 34.6 g of 1,2,3,4-tetrahydro-6-methoxy-1-methyl-2-oxo-4-quinoline acetic acid, methyl ester in 330 ml of tetrahydrofuran. The mixture was stirred at room temperature for 84 hours, cooled to 0° C., quenched with 10% aqueous hydrochloric acid, and concentrated. The aqueous layer was basified with potassium carbonate and extracted with ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous magnesium sulfate, filtered and concentrated to afford 3,4-dihydro-4-(2-hydroxyethyl)-6-methoxy-1-methyl-2(1H)-quinolinone.

reactant | Lithium borohydride | [BH4-].[Li+]
reactant | 1,2,3,4-tetrahydro-6-methoxy-1-methyl-2-oxo-4-quinoline acetic acid, methyl ester | 34.6 g | COC=1C=C2C(CC(N(C2=CC1)C)=O)CC(=O)OC | C14H17NO4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 330 ml | O1CCCC1 | C4H8O
product | 3,4-dihydro-4-(2-hydroxyethyl)-6-methoxy-1-methyl-2(1H)-quinolinone | OCCC1CC(N(C2=CC=C(C=C12)OC)C)=O | C13H17NO3
